US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid and ethyl L-phenylalaninate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-L-phenylalaninate (oil), saponification of which and processing of the reaction product yields N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl-L-phenylalanine (M.P. 153° to 155°).

reactant | N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)O)C=C1 | C19H20ClNO3
reactant | ethyl L-phenylalaninate | N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C11H15NO2
product | ethyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-L-phenylalaninate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C30H33ClN2O4
